US04663319
N-Phenethyl-β-alanine methyl ester (80.2 g) is dissolved in methanol (150 ml), and thereto is added dropwise diketene (32 ml) under ice-cooling. The mixture is stirred at room temperature for 1 hour and then distilled to remove the solvent. The residue is dissolved in methanol (100 ml), and the solution is added dropwise to a solution of sodium methoxide [prepared from metal sodium (9.8 g) and methanol (150 ml)], and the mixture is stirred at room tempeature for 2 hours. After the reaction, the solvent is distilled off, and to the residue is added ice-water. The mixture is extracted with ethyl acetate, and the aqueous layer is acidified with conc. hydrochloric acid and then is extracted with ethyl acetate. The ethyl acetate extract is washed with water, dried and then distilled to remove the solvent to give 1-phenethyl-3-acetyl-2,4-dioxopiperidine (95.3 g, 95%) as a colorless oily substance.

reactant | N-Phenethyl-β-alanine methyl ester | 80.2 g | COC(CCNCCC1=CC=CC=C1)=O | C12H17NO2
reactant | diketene | 32 ml | C=C1CC(=O)O1 | C4H4O2
reactant | methanol | 150 ml | CO | CH4O
product | 1-phenethyl-3-acetyl-2,4-dioxopiperidine | 95.3 g, 95% | C(CC1=CC=CC=C1)N1C(C(C(CC1)=O)C(C)=O)=O | C15H17NO3
